US08633186B2
To a solution of 2,6-dinitrobenzonitrile (0.58 g, 3.00 mmol) in DMF (6 mL) was added isopropylamine (0.71 g, 12.00 mmol) and the reaction mixture was stirred at 50° C. under nitrogen for ten minutes. After cooling to room temperature, dilution with H2O and extraction with EtOAc, solvents of the combined organic phases were evaporated and the residue was purified by flash chromatography (Biotage system, 80 g silicagel column) using a Hexane/EtOAc (3:2) solution as eluant, to give 2-(isopropylamino)-6-nitrobenzonitrile (0.22 g, 35%). 1H NMR (400 MHz, DMSO-d6) δ 1.20 (d, J=6.4 Hz, 6H), 3.85-3.80 (m, 1H), 5.94 (d, J=8.0 Hz, NH), 7.26 (d, J=9.0 Hz, 1H), 7.42 (d, J=9.0 Hz, 1H), 7.60 (t, J=8.8 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | 3.00 mmol, 0.58 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | isopropylamine | 12.00 mmol, 0.71 g | C(C)(C)N | C3H9N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(isopropylamino)-6-nitrobenzonitrile | 0.22 g, 35% | C(C)(C)NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C10H11N3O2
